US20010012901A1
A suspension of boric acid (5.88 g) in glycerol (20 ml) was heated at 170° C. for 30 minutes. Temperature of the reaction mixture was lowered at 155° C. and 5,6,7,8-tetrahydro-3-methyl-1-naphthol (5.00 g) was added dropwise over 10 minutes. After 15 minutes, hexamethylenetetramine (4.35 g) was added dropwise below 180° C. and stirred at 170° C. for 30 minutes. The mixture was cooled to 110° C. and 24% aqueous sulfuric acid (20 ml) was added. The mixture was steam distilled and AcOEt was added to the distillate. The organic phase was washed with brine and dried over MgSO4. After filtration, the filtrate was concentrated under reduced pressure to give 5,6,7,8-tetrahydro-1-hydroxy-3-methylnaphthalene-2-carbaldehyde as a solid (2.15 g). A pure sample was obtained by recrystallization from EtOH—H2O.

reactant | boric acid | 5.88 g | B(O)(O)O | BH3O3
reactant | 5,6,7,8-tetrahydro-3-methyl-1-naphthol | 5.00 g | CC=1C=C(C=2CCCCC2C1)O | C11H14O
reactant | hexamethylenetetramine | 4.35 g | C1N2CN3CN1CN(C2)C3 | C6H12N4
reactant | sulfuric acid | 20 ml | S(O)(O)(=O)=O | H2O4S
reactant | glycerol | 20 ml | OCC(O)CO | C3H8O3
product | 5,6,7,8-tetrahydro-1-hydroxy-3-methylnaphthalene-2-carbaldehyde | 2.15 g | OC1=C(C(=CC=2CCCCC12)C)C=O | C12H14O2
